* NekoSpice v0.1 example: series RLC step response
V1 in 0 PULSE(0 5 0 1n 1n 10u 20u)
R1 in n1 10
L1 n1 out 100u
C1 out 0 100n
.tran 100n 200u
.control
set filetype=ascii
run
wrdata waveform.csv time v(in) v(out)
.endc
.end

